US08114868B2
(S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(1,5,6-trimethyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one and 4-bromo-1,5,6-trimethylpyridin-2(1H)-one following a procedure analogous to that described in Example 6 Step 1. LC-MS Method 2 tR=1.187 min, m/z=489.2; 1H NMR (CDCl3) 1.10 (s, 3H), 1.15 (s, 3H), 1.32 (m, 3H), 1.52 (m, 3H), 1.72 (s, 1H), 2.18 (m, 3H), 2.19 (m, 1H), 2.42 (m, 4H), 2.86 (m, 1H), 4.12 (m, 2H), 5.66 (m, 1H), 6.16 (s, 1H), 6.53 (s, 1H), 6.98 (m, 2H), 7.23-7.34 (m, 7H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 4-bromo-1,5,6-trimethylpyridin-2(1H)-one | BrC1=CC(N(C(=C1C)C)C)=O | C8H10BrNO
product | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(1,5,6-trimethyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C(=C1C)C)C)=O)C1=CC=CC=C1)(C)C | C30H36N2O4
